US05276049
1-(4-Cyano-2-methyl-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one
3.0 g of 1-(4-bromo-2-methyl-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one and 1.3 g of copper(I)cyanide were heated in 10 ml of dimethylformamide for 10 hours at a bath temperature of 175° C. The dimethylformamide was evaporated off in vacuo, the residue was digested with chloroform and filtered off. The chloroform solution was washed with water and saturated saline solution and concentrated by evaporation. The residue was purified by column chromatography (silica gel; methylene chloride/ethyl acetate=100:2)

reactant | 1-(4-bromo-2-methyl-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | 3.0 g | BrC1=CC(=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O)C | C20H21BrN2O3
reactant | copper(I)cyanide | 1.3 g | [Cu]C#N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-Cyano-2-methyl-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | C(#N)C1=CC(=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O)C | C21H21N3O3
